US05364871
A mixture of 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride (1.5 g), triethylamine (1.8 ml) and 1-amino-2-ethoxy-1-cyclobutene-3,4-dione (0.65 g) in methanol (30 ml) was heated under reflux for 7 hours. The solvent was removed by concentration in vacuo. To the residue was added a mixture of water and ethyl acetate, and the mixture was adjusted to pH 1.0 with 6N-hydrochloric acid. The isolated precipitate was collected by filtration and dried. The precipitate was recrystallized from an aqueous N,N-dimethylformamide to give 4-[6-(1-amino-3,4-dioxo-1-cyclobuten-2-yl)aminomethylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole hydrochloride (1.17 g).

reactant | 4-(6-aminomethylpyridin-2-yl)-2-(diaminomethyleneamino)thiazole trihydrochloride | 1.5 g | Cl.Cl.Cl.NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N
reactant | triethylamine | 1.8 ml | C(C)N(CC)CC | C6H15N
reactant | 1-amino-2-ethoxy-1-cyclobutene-3,4-dione | 0.65 g | NC1=C(C(C1=O)=O)OCC | C6H7NO3
solvent | methanol | 30 ml | CO | CH4O
product | 4-[6-(1-amino-3,4-dioxo-1-cyclobuten-2-yl)aminomethylpyridin-2-yl]-2-(diaminomethyleneamino)thiazole hydrochloride | 1.17 g | Cl.NC1=C(C(C1=O)=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(N)N | InChI=1S/C14H13N7O2S.ClH/c15-9-10(12(23)11(9)22)18-4-6-2-1-3-7(19-6)8-5-24-14(20-8)21-13(16)17;/h1-3,5,18H,4,15H2,(H4,16,17,20,21);1H
